* OTA core transfer and common-mode recovery. SPDX-License-Identifier: MIT
.lib /workspace/support/models/cornerMOSlv.lib mos_tt
.lib /workspace/support/models/cornerCAP.lib cap_typ
.lib /workspace/support/models/cornerRES.lib res_typ
.include parameters.spice
.include dut.spice
.temp 27
.options reltol=1e-6 abstol=1e-14 vntol=1e-9 method=gear maxord=2
VDD vdd 0 1.2
VB1 vb1 0 0.45
VB2 vb2 0 0.75
VB3 vb3 0 0.55
VB4 vb4 0 0.6
VP inp 0 dc 0.6 ac 0.5 pulse(0.6 {0.6+step_v/2} 10u 10n 10n 30u 200u)
VN inn 0 dc 0.6 ac -0.5 pulse(0.6 {0.6-step_v/2} 10u 10n 10n 30u 200u)
CP outp 0 {load_f}
CN outn 0 {load_f}
IP 0 outp pulse(0 {kick_a} 60u 10n 10n 1u 200u)
IN 0 outn pulse(0 {kick_a} 60u 10n 10n 1u 200u)
XD inp inn outp outn vdd 0 vb1 vb2 vb3 vb4 amp_027_fan_rrl_ota
.control
set noaskquit
set numdgt=15
op
let cm_bias_v=(v(outp)+v(outn))/2
let dm_bias_v=v(outp)-v(outn)
let power_w=-v(vdd)*i(VDD)-v(vb1)*i(VB1)-v(vb2)*i(VB2)-v(vb3)*i(VB3)-v(vb4)*i(VB4)
print cm_bias_v dm_bias_v power_w
write op.raw all
ac dec 100 10 1G
let transfer=(v(outp)-v(outn))/(v(inp)-v(inn))
let gain=db(transfer)
let phase_deg=180*cph(transfer)/pi
meas ac gain_db find gain at=10
meas ac gain_100khz_db find gain at=100k
meas ac phase_100khz_deg find phase_deg at=100k
write ac.raw all
tran 2n 100u 0 2n
let dm=v(outp)-v(outn)
let cm=(v(outp)+v(outn))/2
meas tran dm_before_v avg dm from=8u to=9u
meas tran dm_high_v avg dm from=38u to=39u
let step_response_v=dm_high_v-dm_before_v
meas tran cm_before_v avg cm from=58u to=59u
let cm_delta=abs(cm-cm_before_v)
meas tran cm_kick_v max cm_delta from=60u to=62u
meas tran cm_recovery_v max cm_delta from=98u to=99u
meas tran cm_min_v min cm from=0 to=100u
meas tran cm_max_v max cm from=0 to=100u
print step_response_v
write transient.raw v(inp) v(inn) v(outp) v(outn) i(VDD)
quit
.endc
.end
