* Derived from analog-db amp_003_fan_smc, fixed snapshot
* 263d0322f8900dc331536fbbe6c0e804514fc454. Copyright 2026 Danial Noori Zadeh.
* See collection LICENSE and NOTICE. Modified: process-grid dimensions, physical passives, explicit bias and separate body taps.
.subckt amp_003_fan_smc vss vdd vinn vinp vout net013
MM12 vb4 vb3 net54 sub sg13_lv_nmos w=1u l=1u m=16
MM13 dm_1 vb3 net56 sub sg13_lv_nmos w=1u l=1u m=16
MM14 vb3 vb3 vss sub sg13_lv_nmos w=1u l=1u m=4
MM15 voutn vb3 dm_2 sub sg13_lv_nmos w=1u l=1u m=16
MM16 net050 vb3 net063 sub sg13_lv_nmos w=1u l=1u m=16
MM17 net54 vb4 vss sub sg13_lv_nmos w=1u l=1u m=16
MM18 net56 vb4 vss sub sg13_lv_nmos w=1u l=1u m=16
MM19 dm_2 vb4 vss sub sg13_lv_nmos w=1u l=1u m=32
MM20 net063 vb4 vss sub sg13_lv_nmos w=1u l=1u m=32
MM21 net043 net043 vss sub sg13_lv_nmos w=1u l=1u m=4
MM22 net049 net043 vss sub sg13_lv_nmos w=1u l=1u m=4
MM23 vout net049 vss sub sg13_lv_nmos w=1u l=1u m=16
MM8 dm_2 vinn net31 well_net31 sg13_lv_pmos w=1u l=1u m=4
MM9 net063 vinp net31 well_net31 sg13_lv_pmos w=1u l=1u m=4
RRtap_net31 net31 well_net31 ntap1 A=108e-12 P=112e-6
MM0 net013 net013 vdd well_vdd sg13_lv_pmos w=1u l=1u m=16
MM1 vb4 net013 vdd well_vdd sg13_lv_pmos w=1u l=1u m=16
MM10 net043 net050 vdd well_vdd sg13_lv_pmos w=1u l=1u m=8
MM11 vout net050 vdd well_vdd sg13_lv_pmos w=1u l=1u m=32
MM2 dm_1 net013 vdd well_vdd sg13_lv_pmos w=1u l=1u m=16
MM3 vb3 net013 vdd well_vdd sg13_lv_pmos w=1u l=1u m=16
MM4 net31 net013 vdd well_vdd sg13_lv_pmos w=1u l=1u m=64
MM5 voutn voutn vdd well_vdd sg13_lv_pmos w=1u l=1u m=16
MM6 net050 voutn vdd well_vdd sg13_lv_pmos w=1u l=1u m=16
MM7 net049 net013 vdd well_vdd sg13_lv_pmos w=1u l=1u m=16
RRtap_vdd vdd well_vdd ntap1 A=2652e-12 P=2656e-6
RRptap vss sub ptap1 A=5160e-12 P=5164e-6
CC0_0 net050 vout cap_cmim w=40.825u l=40.825u m=1
CC0_1 net050 vout cap_cmim w=40.825u l=40.825u m=1
.ends amp_003_fan_smc
