* Copyright 2026 Danial Noori Zadeh. See collection LICENSE and NOTICE.
* Fixed IHP binding; external bias ports and native physical taps.
.subckt amp_022_fer_two_stage vdd vout vinp vinn ibias vss
XT0 vdd well_0 ntap1 A=4e-12 P=8e-6
XM0_0 a vinn c well_0 sg13_lv_pmos w=8u l=0.4u m=1
XT1 vdd well_1 ntap1 A=4e-12 P=8e-6
XM0_1 a vinn c well_1 sg13_lv_pmos w=8u l=0.4u m=1
XT2 vdd well_2 ntap1 A=4e-12 P=8e-6
XM0_2 a vinn c well_2 sg13_lv_pmos w=8u l=0.4u m=1
XT3 vdd well_3 ntap1 A=4e-12 P=8e-6
XM0_3 a vinn c well_3 sg13_lv_pmos w=8u l=0.4u m=1
XT4 vdd well_4 ntap1 A=4e-12 P=8e-6
XM0_4 a vinn c well_4 sg13_lv_pmos w=8u l=0.4u m=1
XT5 vdd well_5 ntap1 A=4e-12 P=8e-6
XM1_0 b vinp c well_5 sg13_lv_pmos w=8u l=0.4u m=1
XT6 vdd well_6 ntap1 A=4e-12 P=8e-6
XM1_1 b vinp c well_6 sg13_lv_pmos w=8u l=0.4u m=1
XT7 vdd well_7 ntap1 A=4e-12 P=8e-6
XM1_2 b vinp c well_7 sg13_lv_pmos w=8u l=0.4u m=1
XT8 vdd well_8 ntap1 A=4e-12 P=8e-6
XM1_3 b vinp c well_8 sg13_lv_pmos w=8u l=0.4u m=1
XT9 vdd well_9 ntap1 A=4e-12 P=8e-6
XM1_4 b vinp c well_9 sg13_lv_pmos w=8u l=0.4u m=1
XT10 vss sub ptap1 A=4e-12 P=8e-6
XM2_0 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT11 vss sub ptap1 A=4e-12 P=8e-6
XM2_1 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT12 vss sub ptap1 A=4e-12 P=8e-6
XM2_2 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT13 vss sub ptap1 A=4e-12 P=8e-6
XM2_3 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT14 vss sub ptap1 A=4e-12 P=8e-6
XM2_4 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT15 vss sub ptap1 A=4e-12 P=8e-6
XM2_5 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT16 vss sub ptap1 A=4e-12 P=8e-6
XM2_6 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT17 vss sub ptap1 A=4e-12 P=8e-6
XM2_7 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT18 vss sub ptap1 A=4e-12 P=8e-6
XM2_8 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT19 vss sub ptap1 A=4e-12 P=8e-6
XM2_9 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT20 vss sub ptap1 A=4e-12 P=8e-6
XM2_10 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT21 vss sub ptap1 A=4e-12 P=8e-6
XM2_11 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT22 vss sub ptap1 A=4e-12 P=8e-6
XM2_12 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT23 vss sub ptap1 A=4e-12 P=8e-6
XM2_13 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT24 vss sub ptap1 A=4e-12 P=8e-6
XM2_14 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT25 vss sub ptap1 A=4e-12 P=8e-6
XM2_15 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT26 vss sub ptap1 A=4e-12 P=8e-6
XM2_16 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT27 vss sub ptap1 A=4e-12 P=8e-6
XM2_17 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT28 vss sub ptap1 A=4e-12 P=8e-6
XM2_18 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT29 vss sub ptap1 A=4e-12 P=8e-6
XM2_19 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT30 vss sub ptap1 A=4e-12 P=8e-6
XM2_20 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT31 vss sub ptap1 A=4e-12 P=8e-6
XM2_21 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT32 vss sub ptap1 A=4e-12 P=8e-6
XM2_22 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT33 vss sub ptap1 A=4e-12 P=8e-6
XM2_23 vout b vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT34 vss sub ptap1 A=4e-12 P=8e-6
XM3_0 a a vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT35 vss sub ptap1 A=4e-12 P=8e-6
XM3_1 a a vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT36 vss sub ptap1 A=4e-12 P=8e-6
XM4_0 b a vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT37 vss sub ptap1 A=4e-12 P=8e-6
XM4_1 b a vss sub sg13_lv_nmos w=6u l=0.4u m=1
XT38 vdd well_38 ntap1 A=4e-12 P=8e-6
XM5_0 c pbias vdd well_38 sg13_lv_pmos w=8u l=0.4u m=1
XT39 vdd well_39 ntap1 A=4e-12 P=8e-6
XM5_1 c pbias vdd well_39 sg13_lv_pmos w=8u l=0.4u m=1
XT40 vdd well_40 ntap1 A=4e-12 P=8e-6
XM5_2 c pbias vdd well_40 sg13_lv_pmos w=8u l=0.4u m=1
XT41 vdd well_41 ntap1 A=4e-12 P=8e-6
XM6_0 vout pbias vdd well_41 sg13_lv_pmos w=8u l=0.4u m=1
XT42 vdd well_42 ntap1 A=4e-12 P=8e-6
XM6_1 vout pbias vdd well_42 sg13_lv_pmos w=8u l=0.4u m=1
XT43 vdd well_43 ntap1 A=4e-12 P=8e-6
XM6_2 vout pbias vdd well_43 sg13_lv_pmos w=8u l=0.4u m=1
XT44 vdd well_44 ntap1 A=4e-12 P=8e-6
XM6_3 vout pbias vdd well_44 sg13_lv_pmos w=8u l=0.4u m=1
XT45 vdd well_45 ntap1 A=4e-12 P=8e-6
XM6_4 vout pbias vdd well_45 sg13_lv_pmos w=8u l=0.4u m=1
XT46 vdd well_46 ntap1 A=4e-12 P=8e-6
XM6_5 vout pbias vdd well_46 sg13_lv_pmos w=8u l=0.4u m=1
XT47 vdd well_47 ntap1 A=4e-12 P=8e-6
XM6_6 vout pbias vdd well_47 sg13_lv_pmos w=8u l=0.4u m=1
XT48 vdd well_48 ntap1 A=4e-12 P=8e-6
XM6_7 vout pbias vdd well_48 sg13_lv_pmos w=8u l=0.4u m=1
XT49 vdd well_49 ntap1 A=4e-12 P=8e-6
XM6_8 vout pbias vdd well_49 sg13_lv_pmos w=8u l=0.4u m=1
XT50 vdd well_50 ntap1 A=4e-12 P=8e-6
XM6_9 vout pbias vdd well_50 sg13_lv_pmos w=8u l=0.4u m=1
XT51 vdd well_51 ntap1 A=4e-12 P=8e-6
XM6_10 vout pbias vdd well_51 sg13_lv_pmos w=8u l=0.4u m=1
XT52 vdd well_52 ntap1 A=4e-12 P=8e-6
XM6_11 vout pbias vdd well_52 sg13_lv_pmos w=8u l=0.4u m=1
XT53 vdd well_53 ntap1 A=4e-12 P=8e-6
XM6_12 vout pbias vdd well_53 sg13_lv_pmos w=8u l=0.4u m=1
XT54 vdd well_54 ntap1 A=4e-12 P=8e-6
XM6_13 vout pbias vdd well_54 sg13_lv_pmos w=8u l=0.4u m=1
XT55 vdd well_55 ntap1 A=4e-12 P=8e-6
XM6_14 vout pbias vdd well_55 sg13_lv_pmos w=8u l=0.4u m=1
XT56 vdd well_56 ntap1 A=4e-12 P=8e-6
XM6_15 vout pbias vdd well_56 sg13_lv_pmos w=8u l=0.4u m=1
XT57 vdd well_57 ntap1 A=4e-12 P=8e-6
XM6_16 vout pbias vdd well_57 sg13_lv_pmos w=8u l=0.4u m=1
XT58 vdd well_58 ntap1 A=4e-12 P=8e-6
XM7_0 pbias pbias vdd well_58 sg13_lv_pmos w=8u l=0.4u m=1
XT59 vdd well_59 ntap1 A=4e-12 P=8e-6
XM7_1 pbias pbias vdd well_59 sg13_lv_pmos w=8u l=0.4u m=1
XT60 vdd well_60 ntap1 A=4e-12 P=8e-6
XM7_2 pbias pbias vdd well_60 sg13_lv_pmos w=8u l=0.4u m=1
XT61 vss sub ptap1 A=4e-12 P=8e-6
XMBD ibias ibias vss sub sg13_lv_nmos w=4u l=0.4u m=1
XT62 vss sub ptap1 A=4e-12 P=8e-6
XMBS pbias ibias vss sub sg13_lv_nmos w=4u l=0.4u m=1
XTSUB vss sub ptap1 A=4e-12 P=8e-6
XCC_0 b vout cap_cmim w=36.46u l=36.46u m=1
.ends amp_022_fer_two_stage
